US08865698B2
(R)-methyl 1-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-ylcarbamoyl)cyclopropanecarboxylate
To a mixture of (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine (Preparation B; 43 mg, 0.14 mmol), 1-(methoxycarbonyl)cyclopropanecarboxylic acid (24 mg, 0.16 mmol), and HATU (62 mg, 0.16 mmol) was added 0.7 mL DMF to make a solution. After cooling in an ice bath for 10 minutes, DIEA (0.053 mL, 0.30 mmol) was added to the reaction drop-wise. The reaction was allowed to warm up to ambient temperature and stirred for 10 minutes. The reaction mixture was diluted with EtOAc (15 mL), washed with water, brine (5 mL each), concentrated, and purified by reverse-phase column chromatography, eluting with 5 to 72% acetonitrile/water to yield the final product as a yellowish foamy powder (36 mg, 60% yield). MS (apci) m/z=442.2 (M+H).

reactant | (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine | 0.14 mmol, 43 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2N | C16H15F2N5
reactant | 1-(methoxycarbonyl)cyclopropanecarboxylic acid | 0.16 mmol, 24 mg | COC(=O)C1(CC1)C(=O)O | C6H8O4
reactant | HATU | 0.16 mmol, 62 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.30 mmol, 0.053 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 0.7 mL | CN(C)C=O | C3H7NO
product | (R)-methyl 1-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-ylcarbamoyl)cyclopropanecarboxylate | 36 mg, 60% yield | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(=O)C2(CC2)C(=O)OC | C22H21F2N5O3
